US06001839
A solution of sodium periodate (0.60 g) dissolved in water (16 ml) was added to a solution of 4-amino-5-[4-(phenylthio)phenyl]-7-(tert-butyl)pyrrolo[2,3-d]pyrimidine (1.0 g) in glacial acetic acid (30 ml) with stirring whilst keeping the temperature below 5° C. The mixture was stirred for 66 hours at ambient temperature. The mixture was filtered and the filtrate was added to water (300 ml). This mixture was basified with solid sodium bicarbonate, filtered to remove a small amount of solid which was discarded and the filtrate extracted with ethyl acetate to give a residue which was purified by flash column chromatography on silica using ethyl acetate/triethylamine (9:1) as the mobile phase, to give a solid which was rechromatographed under the same conditions to give 7-tert-butyl-5-(4-phenylsulphinylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine, m.p. 180-182° C.

reactant | sodium periodate | 0.60 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 4-amino-5-[4-(phenylthio)phenyl]-7-(tert-butyl)pyrrolo[2,3-d]pyrimidine | 1.0 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)SC2=CC=CC=C2)C(C)(C)C | C22H22N4S
solvent | water | 16 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 7-tert-butyl-5-(4-phenylsulphinylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C(C)(C)(C)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)S(=O)C2=CC=CC=C2 | C22H22N4OS
